US06608122B1
22.1 g (0.05 mol) of 2-(2-hydroxy-4-hydroxyethoxy-phenyl)-4,6-bis(2,4-dimethylphenyl)-1,3,5-triazine (prepared as described in U.S. Pat. No. 3,244,708, Example 18), are dissolved in 300 ml of tetrahydrofurane at 40° C. and 21 ml (0.15 mol) of triethylamnine are added. A solution of 5.05 ml (0.053 mol) of acrylic acid chloride in 20 ml THF is added dropwise with stirring and with cooling the reaction mixture to 25-30° C. After further stirring of two hours the precipitated ammonium salt is filtered off, the filtrate is evaporated and the residue recrystallized from toluene-hexane mixture to obtain 22 g (88.7% yield) of 2-(2-hydroxy-4-acryloyloxyethoxy-phenyl)-4,6-bis(2,4-dimethylphenyl)-1,3,5-triazine as slightly yellow crystals (compound No. 25), m.p. 128-129° C.

reactant | 2-(2-hydroxy-4-hydroxyethoxy-phenyl)-4,6-bis(2,4-dimethylphenyl)-1,3,5-triazine | 0.05 mol, 22.1 g | OC1=C(C=CC(=C1)OCCO)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C27H27N3O3
reactant | acrylic acid chloride | 0.053 mol, 5.05 ml | C(C=C)(=O)Cl | C3H3ClO
solvent | tetrahydrofurane | 300 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(2-hydroxy-4-acryloyloxyethoxy-phenyl)-4,6-bis(2,4-dimethylphenyl)-1,3,5-triazine | 22 g, 88.7% yield | OC1=C(C=CC(=C1)OCCOC(C=C)=O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C30H29N3O4
